US08304419B2
Step G: 4-chloro-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxylic acid
nBuLi (1.27 mL of a 1.57 M solution in hexanes, 2.00 mmol) was added dropwise to a solution of 2-bromo-4,5-dichloro-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole (0.69 g, 2.0 mmol) in THF (40 mL) at −78° C. under N2. The reaction mixture was stirred for 20 min and TMSCl (0.25 mL, 2.00 mmol) was added dropwise. The cooling bath was removed and the reaction mixture was allowed to warm to RT. After 4 h at RT, the solution was cooled to −78° C. and nBuLi (1.27 mL of a 1.57 M solution in hexanes, 2.00 mmol) was added dropwise. After 30 min, DMF (1.0 mL, 12.91 mmol) was added and the reaction was stirred at RT for 20 min. Saturated aqueous NH4Cl solution was added to the reaction and extracted with EtOAc. The organic phase was dried (Na2SO4), filtered, and purified by silica gel chromatography (0-30% EtOAc/hexanes) to afford a mixture of two compounds. THF (5 mL) was added followed by tBuOH (1.21 mL) and 2-methyl-butene (9.8 mL of a 2M solution in THF, 19.5 mmol). A solution of NaClO2 (1.4 g, 15.6 mmol) and NaH2PO4.H2O (1.29 g, 9.4 mmol) in water (4 mL) was added and the solution was stirred at RT overnight. The organic layer was separated and the aqueous layer was extracted with ethyl acetate. The organic layer was separated, dried over Na2SO4, filtered and concentrated to give 0.43 g (77%) of the title compound as a pale yellow oil. 1H NMR (400 MHz, DMSO-d6) δ ppm 13.43 (br. s., 1H), 8.10 (s, 1H), 5.60 (s, 2 H), 3.48 (t, 2H), 0.82 (t, 2H), −0.06 (s, 9H).

reactant | nBuLi | [Li]CCCC
reactant | 2-bromo-4,5-dichloro-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole | 2.0 mmol, 0.69 g | BrC=1N(C(=C(N1)Cl)Cl)COCC[Si](C)(C)C | C9H15BrCl2N2OSi
reactant | TMSCl | 2.00 mmol, 0.25 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | DMF | 12.91 mmol, 1.0 mL | CN(C)C=O | C3H7NO
reactant | NH4Cl | [NH4+].[Cl-]
reactant | 2-methyl-butene | CC(=C)CC | C5H10
reactant | NaClO2 | 15.6 mmol, 1.4 g | [O-]Cl=O.[Na+]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | water | 4 mL | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | tBuOH | 1.21 mL | CC(C)(C)O | C4H10O
product | 4-chloro-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxylic acid | 0.43 g, 77% | ClC=1N=CN(C1C(=O)O)COCC[Si](C)(C)C | C10H17ClN2O3Si
